US06228877B1
ss) N-{1-Methyl-3-[4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-1H-indol-3-yl}-acetamide was prepared from (6-acetylamino-1-methyl-1H-indol-3-yl)-oxo-acetyl chloride and 2-(1-methyl-6-nitro-1H-indol-3-yl)-acetimidic acid isopropyl ester hydrochloride.

reactant | (6-acetylamino-1-methyl-1H-indol-3-yl)-oxo-acetyl chloride | C(C)(=O)NC1=CC=C2C(=CN(C2=C1)C)C(C(=O)Cl)=O | C13H11ClN2O3
reactant | 2-(1-methyl-6-nitro-1H-indol-3-yl)-acetimidic acid isopropyl ester hydrochloride | Cl.C(C)(C)OC(CC1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=N
product | N-{1-Methyl-3-[4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-1H-indol-3-yl}-acetamide | CN1CC(C2=CC=CC=C12)(C=1C(NC(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)=O)NC(C)=O | C24H21N5O5
